US08304557B2
3-(1-cyanocyclopropyl)-N-[3-({2-[(cyclopropylcarbonyl)amino][1,2,4]triazolo[1,5-a]pyridin-6-yl}oxy)-4-methylphenyl]benzamide
To a solution of 3-(1-cyanocyclopropyl)benzoyl chloride synthesized above in 1-methylpyrrolidin-2-one (7.0 mL) was added N-[6-(5-amino-2-methylphenoxy)[1,2,4]triazolo[1,5-a]pyridin-2-yl]cyclopropanecarboxamide (200 mg, 0.619 mmol), and the mixture was stirred at room temperature for 8 hr. The reaction mixture was diluted with ethyl acetate (100 mL), washed with 5% aqueous sodium hydrogen carbonate solution (50 mL) and saturated brine (50 mL), and dried over anhydrous sodium sulfate. The insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate=50/50→0/100), and the obtained oil was triturated with toluene and diisopropyl ether to give the title compound (256 mg, 84%) as a colorless powder.

reactant | 3-(1-cyanocyclopropyl)benzoyl chloride | C(#N)C1(CC1)C=1C=C(C(=O)Cl)C=CC1 | C11H8ClNO
reactant | N-[6-(5-amino-2-methylphenoxy)[1,2,4]triazolo[1,5-a]pyridin-2-yl]cyclopropanecarboxamide | 0.619 mmol, 200 mg | NC=1C=CC(=C(OC=2C=CC=3N(C2)N=C(N3)NC(=O)C3CC3)C1)C | C17H17N5O2
solvent | 1-methylpyrrolidin-2-one | 7.0 mL | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 3-(1-cyanocyclopropyl)-N-[3-({2-[(cyclopropylcarbonyl)amino][1,2,4]triazolo[1,5-a]pyridin-6-yl}oxy)-4-methylphenyl]benzamide | 256 mg, 84% | C(#N)C1(CC1)C=1C=C(C(=O)NC2=CC(=C(C=C2)C)OC=2C=CC=3N(C2)N=C(N3)NC(=O)C3CC3)C=CC1 | C28H24N6O3
